US08686024B2
To a solution of 5-methoxyindole (758 mg, 5.15 mmol) in a 1:1 solution (7.7 mL) of acetic acid and tetrahydrofuran was added sodium cyanoborohydride (1.13 g, 18.0 mmol) at room temperature. After being stirred for 1 h, 2-pyridinecarboxyaldehyde (0.98 mL, 10.3 mmol) was added with additional stirring for 1 h. After the reaction mixture was neutralized by saturated NaHCO3 aqueous solution, the reaction mixture was diluted with ethyl acetate. The separated organic layer was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=80/20 to 40/60) to obtain 1-(2-pyridylmethyl)-5-methoxyindoline (543 mg, 44%). To the above product was added a solution of 50% hydrogen bromide-acetic acid solution (10 mL) at room temperature. After the reaction mixture was stirred at 105° C. for 30 min, the reaction mixture was neutralized by saturated NaHCO3 aqueous solution, and the solution was extracted with ethyl acetate. The extract was washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20 to 70/30) to obtain the title compound (313 mg, 61%) as a sticky oil.

reactant | 5-methoxyindole | 5.15 mmol, 758 mg | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | acetic acid | 7.7 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 18.0 mmol, 1.13 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2-pyridylmethyl)-5-methoxyindoline | 543 mg, 44% | N1=C(C=CC=C1)CN1CCC2=CC(=CC=C12)OC | C15H16N2O
